US07534785B2
4.19 g of 3-nitrobenzyl bromide and 9.95 g of potassium carbonate are added to a solution of 4.00 g of 5-(4-chlorophenyl)-3,6-dihydro-1,3,4-thiadiazin-2-one in 80 ml of acetonitrile, and the mixture is stirred at 80° for a further 2 h. The mixture is poured into water, extracted 2× with diethyl ether, dried, filtered and evaporated to dryness. A little diethyl ether is added to the residue, which is crystallised and dried in a vacuum drying cabinet at 50° C., giving 5.5 g (86%) of 5-(4-chlorophenyl)-3-(3-nitrobenzyl)-3,6-dihydro-1,3,4-thiadiazin-2-one.

reactant | 3-nitrobenzyl bromide | 4.19 g | [N+](=O)([O-])C=1C=C(CBr)C=CC1 | C7H6BrNO2
reactant | potassium carbonate | 9.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-(4-chlorophenyl)-3,6-dihydro-1,3,4-thiadiazin-2-one | 4.00 g | ClC1=CC=C(C=C1)C1=NNC(SC1)=O | C9H7ClN2OS
reactant | water | O | H2O
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | 5-(4-chlorophenyl)-3-(3-nitrobenzyl)-3,6-dihydro-1,3,4-thiadiazin-2-one | 5.5 g, 86% | ClC1=CC=C(C=C1)C1=NN(C(SC1)=O)CC1=CC(=CC=C1)[N+](=O)[O-] | C16H12ClN3O3S
